US06414148B1
A mixture of 4,7-dichloro-6-nitroquinazoline (24.4 g, 0.1 mol), 4-chloro-2-fluoroaniline and ethereal hydrogen chloride (100 ml of a 1M solution) in 2-propanol (600 ml) was heated at reflux for 1.5 hours. The mixture was allowed to cool and diluted with acetone. The solid product was collected by filtration, washed with acetone and dried to give 7-chloro-4-(4-chloro-2-fluoroanilino)-6nitroquinazoline hydrochloride (35.0 g, 90%) as a yellow powder.

reactant | 4,7-dichloro-6-nitroquinazoline | 0.1 mol, 24.4 g | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])Cl | C8H3Cl2N3O2
reactant | 4-chloro-2-fluoroaniline | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | 600 ml | CC(C)O | C3H8O
solvent | acetone | CC(=O)C | C3H6O
product | 7-chloro-4-(4-chloro-2-fluoroanilino)-6nitroquinazoline hydrochloride | 35.0 g, 90% | Cl.ClC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)[N+](=O)[O-] | InChI=1S/C14H7Cl2FN4O2.ClH/c15-7-1-2-11(10(17)3-7)20-14-8-4-13(21(22)23)9(16)5-12(8)18-6-19-14;/h1-6H,(H,18,19,20);1H
